US09447309B2
Preparation of Di(2-octyl)succinate
A mixture of succinic acid (Alfa-Aesar, 149.00 g, 1.26 mol), 2-octanol (Alfa-Aesar, 350.00 g, 2.69 mol), toluene (625 mL), and methanesulfonic acid (Alfa-Aesar, 2.00 g, 21 mmol) was heated to reflux for 6 hours. The water liberated was collected in a Dean Stark trap. The mixture was cooled, washed with saturated sodium bicarbonate (300 mL) and brine (100 mL), and dried over magnesium sulfate. The solvent was removed under vacuum to give a yellow oil that was used without further purification (426.39 g).

reactant | succinic acid | 1.26 mol, 149.00 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | 2-octanol | 2.69 mol, 350.00 g | CC(CCCCCC)O | C8H18O
reactant | methanesulfonic acid | 21 mmol, 2.00 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 625 mL | C1(=CC=CC=C1)C | C7H8
product | Di(2-octyl)succinate | CC(CCCCCC)OC(CCC(=O)OC(C)CCCCCC)=O | C20H38O4
